US07423030B2
27.3. 4-Butyl-1-chloro-7-methoxyphthalazine
This compound is obtained according to the procedure described in 1.3. by reacting 4-butyl-7-methoxy-2H-phthalazin-1-one with phosphoryl chloride.

reactant | 4-butyl-7-methoxy-2H-phthalazin-1-one | C(CCC)C1=NNC(C2=CC(=CC=C12)OC)=O | C13H16N2O2
reactant | phosphoryl chloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Butyl-1-chloro-7-methoxyphthalazine | C(CCC)C1=NN=C(C2=CC(=CC=C12)OC)Cl | C13H15ClN2O
